US04820727
Step (1) Preparation of N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]carbamic Acid, Ethyl Ester
A solution of 2-chloro-6-methoxy-5-(trifluoromethyl)naphthoic acid (3.50 g, 11.5 mmol, prepared by the process of Example 14), and ethoxycarbonyl-t-butylcarbodiimide (2.2 g, 1.1 eq) in dry tetrahydrofuran (58 mL) was heated to reflux under a dry nitrogen atmosphere for 51/2 hours. The tetrahydrofuran was removed and the resultant solid was triturated with ether (2×15 mL) and dried in vacuo. A second crop was recovered from the ether and combined with the product (3.36 g, 78%). The small sample was further purified by flash chromatography (70/30 petroleum ether/ethyl acetate) to provide the analytically pure product as a white solid, m.p. 169°-171° C.

reactant | 2-chloro-6-methoxy-5-(trifluoromethyl)naphthoic acid | ClC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)O | C13H8ClF3O3
reactant | ethoxycarbonyl-t-butylcarbodiimide | 2.2 g, 1.1 eq | C(C)OC(=O)N=C=NC(C)(C)C | C8H14N2O2
reactant | tetrahydrofuran | 58 mL | O1CCCC1 | C4H8O
product | N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]carbamic Acid, Ethyl Ester | ClC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)NC(OCC)=O | C16H13ClF3NO4
